US06455550B1
Preparation of N-[[1-(2-Aminoethyl)cyclopentyl]carbonyl]-4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine on Wang Resin
To a suspension of N-[[1-(2-azidoethyl)cyclopentyl]carbonyl]-4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine on Wang resin (9.33 mmol, 13.43 g, 0.695 mmol per g) in THF (60 mL) was added a solution of 1.0 M trimethylphosphine in THF (37.3 mmol, 37.3 mL) at 0° C. The mixture was allowed to warm to room temperature and stir for 4 h at which time a Kaiser test was possible for amine. The resin was filtered and was washed with DMF (4×20 mL), dichloromethane (4×10 mL), isopropanol (4×10 mL), DMF (2×20 mL) and dichloromethane (2×20 mL), respectively. After drying under high vacuum, 13.43 g of N-[[1-(2-aminoethyl)cyclopentyl]carbonyl]-4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine on Wang resin was obtained.

reactant | N-[[1-(2-azidoethyl)cyclopentyl]carbonyl]-4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine | N(=[N+]=[N-])CCC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)C(=O)O | C24H25Cl2N5O4
reactant | trimethylphosphine | 1.0 M | CP(C)C | C3H9P
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 37.3 mmol, 37.3 mL | C1CCOC1 | C4H8O
product | N-[[1-(2-Aminoethyl)cyclopentyl]carbonyl]-4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine | NCCC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)C(=O)O | C24H27Cl2N3O4
